US08003649B2
Sodium cyanotrihydroborate (58.5 mg, 0.93 mmol) was added to a stirred mixture of 6-(6,6-difluoro-1,4-diazepan-1-yl)-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine (200 mg, 0.62 mmol), 4-fluorobenzaldehyde (93 mg, 0.75 mmol) and acetic acid (71.1 μl, 1.24 mmol) in methanol (10 mL) at room temperature. The resulting mixture was stirred at 21° C. for 20 hours. The reaction mixture was concentrated to dryness, diluted with methanol and a few drops of 7M ammonia in methanol were added. The mixture was concentrated to dryness, the residue was diluted with DCM and the salts were filtered off. The filtrate was concentrated and purified by flash chromatography on silica gel eluting with 0 to 20% acetonitrile in DCM. Product-containing fractions were concentrated to give to give 6-[6,6-difluoro-4-(4-fluorobenzyl)-1,4-diazepan-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine (154 mg, 55%).

reactant | Sodium cyanotrihydroborate | 0.93 mmol, 58.5 mg | [B-]C#N.[Na+]
reactant | 6-(6,6-difluoro-1,4-diazepan-1-yl)-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine | 0.62 mmol, 200 mg | FC1(CNCCN(C1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F)F | C11H11F5N6
reactant | 4-fluorobenzaldehyde | 0.75 mmol, 93 mg | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | acetic acid | 1.24 mmol, 71.1 μl | C(C)(=O)O | C2H4O2
solvent | methanol | 10 mL | CO | CH4O
product | 6-[6,6-difluoro-4-(4-fluorobenzyl)-1,4-diazepan-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine | 154 mg, 55% | FC1(CN(CCN(C1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F)CC2=CC=C(C=C2)F)F | C18H16F6N6
